### PR TITLE
[Merged by Bors] - feat(EReal): add lemmas

### PR DESCRIPTION
**Pull request by urkud**
Also protect some lemmas.
This branch was cherry-picked from #24916.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/EReal/Operations.lean [hunk 1]
```diff
@@ -313,6 +320,31 @@ lemma neg_sub {x y : EReal} (h1 : x ≠ ⊥ ∨ y ≠ ⊥) (h2 : x ≠ ⊤ ∨ y
...
+  suffices ∀ y : EReal, x = y → HEq (recENNReal coe neg_coe y : motive y) (coe x) from
+    heq_iff_eq.mp (this x rfl)
+  intro y hy
+  have H₁ : 0 ≤ y := hy ▸ coe_ennreal_nonneg x
+  obtain rfl : y.toENNReal = x := by simp [← hy]
+  simp [recENNReal, H₁]
+
+proof_wanted recENNReal_neg_coe_ennreal {motive : EReal → Sort*} (coe : ∀ x : ℝ≥0∞, motive x)
+    (neg_coe : ∀ x : ℝ≥0∞, 0 < x → motive (-x)) {x : ℝ≥0∞} (hx : 0 < x) :
+    recENNReal coe neg_coe (-x) = neg_coe x hx
```
Comment (urkud) [inline Mathlib/Data/EReal/Operations.lean:346]: @Parcly-Taxel I've run into dependent type hell while trying to prove this, so left it as `proof_wanted`.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
